US08440689B2
B. (R)-2-(7-Fluoro-4-(furan-2-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide
A solution of (R)-2-(2-(2,4-dimethoxybenzyl)-7-fluoro-4-(furan-2-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide (93.1 mg, 0.188 mmol) in TFA (5 mL) was heated to 65° C. for 3 h. The solvent was removed and the resulting residue was diluted in MeOH/DCM (10 mL) and was purified via preparative HPLC eluting with water (0.05% TFA) and ACN (30%, 0.035% TFA). The collected fractions were stripped to dryness via rotary evaporation to afford the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.79-0.97 (m, 6H), 1.52-1.87 (m, 3H), 4.38 (s, 2H), 4.66-4.85 (m, 1H), 6.61 (dd, J=3.54, 1.77 Hz, 1H), 6.92-7.07 (m, 2H), 7.36 (br s, 1H), 7.79 (dd, J=1.64, 0.63 Hz, 1H), 8.04 (dd, J=3.54, 0.51 Hz, 1H), 8.32 (s, 1H). [M+H] calc'd for C17H19FN4O3, 347. found, 347.

reactant | (R)-2-(2-(2,4-dimethoxybenzyl)-7-fluoro-4-(furan-2-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide | 0.188 mmol, 93.1 mg | COC1=C(CN2C(C=3C(=NC(=C(C3C2)F)N[C@@H](C(=O)N)CC(C)C)C=2OC=CC2)=O)C=CC(=C1)OC | C26H29FN4O5
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-2-(7-Fluoro-4-(furan-2-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide | FC=1C2=C(C(=NC1N[C@@H](C(=O)N)CC(C)C)C=1OC=CC1)C(NC2)=O | C17H19FN4O3
